US05863947
A stirred mixture of 4-cyano-2-(1-pyrrolidinyl)benzaldehyde (0.50 g, 2.5 mmol), potassium cyanide (0.32 g, 5 mmol) and ammonium carbonate (0.96 g, 10 mmol) in 1:1 ethanol-water (10 ml) was heated to 75° C. for 2 hours in a sealed vessel. After dilution with water (20 ml), a solid precipitated on standing. The solid was filtered, washed with water, and then triturated with chloroform to give 5-(4-cyano-2-(1-pyrrolidinyl)phenyl)hydantoin as a yellow solid, m.p. 154° C.

reactant | 4-cyano-2-(1-pyrrolidinyl)benzaldehyde | 2.5 mmol, 0.50 g | C(#N)C1=CC(=C(C=O)C=C1)N1CCCC1 | C12H12N2O
reactant | potassium cyanide | 5 mmol, 0.32 g | [C-]#N.[K+]
reactant | ammonium carbonate | 10 mmol, 0.96 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | ethanol water | 10 ml | C(C)O.O
product | 5-(4-cyano-2-(1-pyrrolidinyl)phenyl)hydantoin | C(#N)C1=CC(=C(C=C1)C1C(NC(N1)=O)=O)N1CCCC1 | C14H14N4O2
